US05916786
Glycine (18.8 grams) is dissolved in 2 liters of deionized water, and the pH is adjusted by the addition of 10% sodium hydroxide to 9.0. 2-(4-fluorophenyl)-1,4-butanediol (10.0 grams) is dissolved in 150 ml of acetone added to the glycine solution with stirring, followed by the addition of β-NAD+ (Sigma, 0.5 grams). To the resulting solution is added horse liver alcohol dehydrogenase (Sigma, 250 mg, approximately 400 units). After the enzyme has dissolved the pH is readjusted to 9.0 with 10% sodium hydroxide, and the reaction mixture is stirred at 30° C. During the reaction, the pH is maintained at 9.0 with a pH-stat by the addition of 10% sodium hydroxide. Progress of the reaction is monitored by thin layer chromatography (Silica gel plates, eluent methylene chloride; visualization by dipping in a solution of 5% anisaldehyde in ethanol and heating). When the reaction is complete as judged by thin layer chromatography, the reaction mixture is adjusted to a pH of 13 with 10 M sodium hydroxide and then extracted 3 times with 250 ml of methylene chloride. The pH of the aqueous mixture is then adjusted to 3 with concentrated HCl, followed by continuous extraction with 1 liter of ethyl acetate for 24 hours. The ethyl acetate extract is dried over anhydrous magnesium sulfate and evaporated under reduced pressure to yield (2R)-2-(4-fluorophenyl)butyrolactone as a yellowish solid.

reactant | Glycine | 18.8 grams | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-(4-fluorophenyl)-1,4-butanediol | 10.0 grams | FC1=CC=C(C=C1)C(CO)CCO | C10H13FO2
reactant | β-NAD+ | 0.5 grams | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)([O-])OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)O)O)O)O)C(=O)N | C21H27N7O14P2
reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | sodium hydroxide | 10 M | [OH-].[Na+]
solvent | water | 2 liters | O | H2O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2R)-2-(4-fluorophenyl)butyrolactone | FC1=CC=C(C=C1)[C@@H]1C(=O)OCC1 | C10H9FO2
